US04910190
a. 1-(Ethoxycarbonyl)cyclopentanecarboxylic acid
To a solution of diethyl 1,1-cyclopentane dicarboxylate (2.5 g, 11.68 mol) in EtOH (10 ml) was added dropwise a solution of KOH (654 mg, 11.68 mmol) in EtOH (10 ml) over 1/2 hour. The resulting mixture was stirred at room temperature for 96 hr, concentrated under vacuum, and partitioned between H2O and EtOAc. The aqueous layer was acidified with concentrated HCl and extracted with EtOAc. The EtOAc extracts were washed (brine), dried (Na2SO4), filtered, and concentrated under vacuum to give the product (1.73 g) as a clear oil.

reactant | diethyl 1,1-cyclopentane dicarboxylate | 11.68 mol, 2.5 g | C1(CCCC1)(C(=O)OCC)C(=O)OCC | C11H18O4
reactant | KOH | 11.68 mmol, 654 mg | [OH-].[K+]
solvent | EtOH | 10 ml | CCO | C2H6O
solvent | EtOH | 10 ml | CCO | C2H6O
product | 1-(Ethoxycarbonyl)cyclopentanecarboxylic acid | 1.73 g | C(C)OC(=O)C1(CCCC1)C(=O)O | C9H14O4
